US06939885B2
A solution of 4-chloroaniline (2.0 g, 16 mmol) in 30 mL of TCE was added drop wise to a solution of BCl3 (1 M in DCM) (24 ml, 24 mmol) with ice bath cooling, over a period of 15 min and the reaction mixture stirred at that temperature for an additional 10 min. 4-Cyanopyridine (2.0 g, 19 mmol) and AlCl3 (3.0 g, 22 mmol) were added with ice-water cooling. The solution was allowed to warm to room temperature and stirred for 30 min. The resulting solution was refluxed at 160° C. for 4 h and stirred at room temperature overnight. The reaction mixture was then treated with 30 mL of 3N HCl and the mixture was refluxed at 110° C. for 1.5 h. The reaction mixture was allowed to cool down to room temperature and the solution was adjusted to pH 12 with 6N NaOH and then diluted water and DCM. The resulting two layers were separated and the aqueous layer was extracted with DCM three times and the organic layers combined and dried over sodium sulfate. After removal of the solvent, the resulting solid was washed with ether to yield (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone (2.8 g, 75%).

reactant | 4-chloroaniline | 16 mmol, 2.0 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | BCl3 | 24 mmol, 1 M, 24 ml | B(Cl)(Cl)Cl | BCl3
reactant | 4-Cyanopyridine | 19 mmol, 2.0 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | AlCl3 | 22 mmol, 3.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 3N, 30 mL | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (2-amino-5-chloro-phenyl)-pyridin-4-yl-methanone | 2.8 g, 75% | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=NC=C1 | C12H9ClN2O
